US04178449
3-Bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A 3.75 g. portion of N-bromosuccinimide is added to a solution of 5.26 g. of 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine in 50 ml. of chloroform producing an exothermic reaction. The mixture is refluxed on a steam bath for 15 minutes and then treated as described in Example 14, giving the desired product, m.p. 138°-140° C.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C13H7BrF3N3
